US04378992
A solution of 14.5 g of 3-[2-(cyclohexyloxy)-ethoxy]aniline in 100 ml of toluene was added dropwise to 100 ml of toluene containing 12 g of phosgene. The resultant mixture was refluxed for 1 hour and concentrated under reduced pressure. The concentrate was purified by high vacuum distillation to give 14 g of 3-[2-(cyclohexyloxy)-ethoxy]phenyl isocyanate. B.P., 112°-115° C./0.06 mmHg. nD23 1.5283.

reactant | 3-[2-(cyclohexyloxy)-ethoxy]aniline | 14.5 g | C1(CCCCC1)OCCOC=1C=C(N)C=CC1 | C14H21NO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml, 12 g | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(cyclohexyloxy)-ethoxy]phenyl isocyanate | 14 g | C1(CCCCC1)OCCOC=1C=C(C=CC1)N=C=O | C15H19NO3
